Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Aspirin / Codeine / Nsaids / Sulfonamides / Macrodantin / 
Nifedipine / Compazine / Imitrex
 
Attending: ___.
 
Chief Complaint:
left flank pain & N/V & bloody urine
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ with PMH of nephrolithiasis presents with worsening left 
flank pain, N/V, and hematuria for 2 days. She was most recently 
dx with nephrolithiasis in ___ at ___ when she 
presents with the same symptoms. Ultrasound at that time showed 
a 5x 4x 3mm nonobstructive renal calculus. Urology consult at 
that time recommended lithotripsy given the small stone size. 
She was diagnosed with renal tubular acidosis per pt. She has 
been in & out ___ 3 times for pain and N/V since the 
intial admission. During the last hospitlization, she underwent 
renal scintigraphy with flow and function with Lasix that showed 
"no evidence of obstruction on either side, (left takes up 48%, 
right takes up 52%, and qualitatively and quantitaively normal 
tracer kinetics".
.
She has been treating herself at home with PO hydration (water 
and cranberry juice) and pain medication (tylenol per ___ d/c 
summary) and antiemetics. She came to the ER today because of 
constant pain, N/V (intolerant of all PO), and blood in her 
urine. Her pain is cramping in nature, "like back labor," ___ 
at baseline, ___ during spasm, starts at her left flank and 
travels superior to her pelvic bone and toward her groin. She 
has anorexia and reports a 27lb weight loss since ___. She has 
intermittent chills. She denies fever, night sweats, CP, SOB, 
dysuria, frequency, abdominal pain, diarrhea, melena, 
hematochezia, lower extremity swelling. She has bilateral hand 
swelling that started a year ago, worse in AM, completely 
resolves by ___. She denies recent URI symptoms, trauma, travel, 
or sick contacts.
.
ED COURSE:  She received 3L NS in ED, her dizziness is improved. 
Morphine SO4 4mg IV, Zofran 4mg IV x2, Dilaudid 5mg total, KCl 
80mEq IV, Toradol 30mg IV. A right groin CVL was placed for 
access after several attempts at starting a PIV.

 
Past Medical History:
# kidney stones
- per patient, last episode was ___ YO during ___ pregnancy when 
15 stones were removed; s/p stent placement and removal
- per ___
# hypokalemia
- earliest documentation in ___ when being worked-up for chest 
pain and tachycardia - however the patient did not follow-up. 
Nephrology consult @ ___, per ___, mentions work-up for 
renal tubular acidosis but d/c summary does not detail w/u.
# Roux-en Y choledochojejunostomy ___ spincter of Oddi spasms
# Open cholecystectomy ___ gall stones
# renal tubular acidosis: dx per pt but no documentation of 
work-up
# "liver stones" for which the patient reports she had the 
Roux-en Y (no record)
# migraines/ seizures(eclampsia)
- she has been on Lamictal in the past for migraine prophylaxis
- minimally active sinec starting Fentanyl patch ___
- seized during pregnancy (26wk loss)
# asthma
- only active during ___ months
# depression
- since ___ week pregnancy loss ___ years ago
# h/o barbituate and Demerol abuse ___ - patient reports that 
it has not been an issue since then
# TAH/BSO
- hysterectomy during cesarean for premature delivery
- BSO per pt was during pregnancy loss but per ___ 
___ endometriosis

 
Social History:
___
Family History:
Mother had "half her kidney removed" for unknown reasons. 
Paternal grandfather recently dx w bone cancer at ___, no other 
FH of malignancy. Maternal grandfather DM, HTN, CAD.
 
Physical Exam:
T: 97.8   BP: 110/70   P: 95   RR: 18    O2 sats:  99%RA
Gen: in mild distress, esp when  
HEENT: NCAT, PERRLA, EOMI, no LAD, OP clear
Neck: no masses  
CV: RRR no MRG, nl S1, S2  
Resp: CTAB 
Abd: decreased BS, soft, ND, TTP LUQ > LLQ, no 
guarding/rigidity/rebound  
Back: +left CVA tenderness  
Rectal: def Guaiac:  
Ext: no CCE, 2+/4 symmetric pedal pulses  
Neuro: A&O x4
CN: non-focal
Sensation: intact
Strength: ___ throughout

 
Pertinent Results:
EKG: rate ~80, normal axis, intervals, and no acute ST changes,
?presence of U wave in leads V2-V6.
.
Imaging:  
CT PELVIS W&W/O C  Study Date of ___
1.  No findings to explain the patient's left flank pain. 
2.  Tiny nonobstructing 2-mm renal calculus within the 
interpolar region of the left kidney, stable since CT abdomen 
and pelvis ___.   
3.  Well positioned right femoral central venous catheter. 
.
Labs on Adm:  
143 | 110 | 15 / 133   AGap=15 
2.4 | 20  | 0.7\  
Ca: 8.6 Mg: 1.9 P: 2.8
LDH: 184 
Lip: 28     
UricA:2.9 
CBC 8.5>31.8<215 
 N:80.4 L:15.7 M:3.6 E:0.2 Bas:0.1 
 
U/A
Color Straw; Appear Clear; SpecGr 1.015; pH   7.0  
Urobil Neg, Bili Neg, Leuk Tr, Bld Lg, Nitr Neg, Prot Neg, Glu 
Neg, Ket Neg, RBC >50, WBC ___, Bact None, Yeast None, Epi ___   
 
.
Micro:  
___ 10:55 pm URINE     Site: CLEAN CATCH
                            **FINAL REPORT ___
   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION.
.
Cytology ReportURINE/VOIDEDProcedure Date of ___
 NEGATIVE FOR MALIGNANT CELLS.

 
Brief Hospital Course:
___ with h/o nephrolithiasis and Roux-en Y 
choledochojejunostomy presents with left flank pain, N/V, and 
hematuria and evidence of nonobstructive 3mm left kidney stone 
on CT scan.
.  
# right flank pain
Pain distribution and characteristic of renal colic pain ___ 
stones however there is no evidence of symptomatic stones on the 
patient extensive workup and on imaging here. Additionally, 
given full workup at OSH did not seem to account for pain. On 
hospital day 1, Ms. ___ was started on a Dilaudid PCA for 
pain control. An attempt was made to transition to PO pain 
medication on hospital day 2 however she remained in significant 
amount of pain requiring IV dilaudid for breakthrough pain. The 
chronic pain service was eventually consulted. They recommended 
increasing the Duragesic to 100 MCG/hour TTS (to be titrated 
down to her usual 75 MCG/hour dose by her neurologist after 
resolution of exacerbation), to start Tizanidine 4 mg PO TID for 
synergistic analgesia, and to maintain PO dilaudid for 
breakthrough pain.
.
# hematuria
Hematuria resolved after adequate intravenous hydration. It did 
not recur grossly during the hospital course although she still 
had microscopic evidence of it. Urology was curbsided and they 
recommended, in addition to the studies already obtained, urine 
cytology and outpatient cystoscopy. 
.  
# N/V 
Likely secondary to pain although gastroenteritis, pancreatitis, 
hepatitis are all possibilities; lipase wnl so pancreatitis 
unlikely. Transaminases were also normal. She has had a h/o 
elevated alkaline phosphatase and it remained elevated although 
lower than previous values. Scheduled Zofran controlled the 
nausea during Ms. ___ hospitalization.
.  
# hypokalemia/?RTA
Vomiting likely playing a role although she has had a 
long-documented h/o hypokalemia. The hypokalemia was corrected 
with repletion with KCl during her hospitalization. PTH was 
within normal limits. Work-up was deferred for the patient's 
outpatient appointment with a nephrologist in ___. 
.
# anemia
Iron studies revealed that Ms. ___ was Vitamin B12 deficient. 
She was started on Vitamin B12 injections.
.
# Widened mediastinum on xray- Recommended CT chest to further 
evaluate. CT chest showed increase in right paratracheal region 
corresponds to vessels including the right brachiocephalic vein. 
No further w/u was required.
.
# migraines
Fentanyl patch, topamax, and fioricet prn were continued and 
adjusted as above.
.
# FEN: regular diet, repleted lytes PRN
.  
# PPX: SC Heparin, bowel regimen  
.  
# Dispo: home  
.  
# Code Status: full  

 
Medications on Admission:
Effexor 150 qam, 75 qhs
Fentanyl 75mcg q72h
Topamax qhs
Fioricet prn (minimal use since duragesic, 2 in last week)
albuterol prn
 
Discharge Medications:
1. Potassium Chloride 20 mEq Tab Sust.Rel. Particle/Crystal Sig: 
Two (2) Tab Sust.Rel. Particle/Crystal PO once a day for 4 
weeks.
Disp:*56 Tab Sust.Rel. Particle/Crystal(s)* Refills:*0*
2. Cyanocobalamin 1,000 mcg/mL Solution Sig: One (1)  Injection 
DAILY (Daily): please give injections daily for 1 day, then 
weekly for a month, then monthly.
Disp:*qs * Refills:*0*
3. ZOFRAN ODT 8 mg Tablet, Rapid Dissolve Sig: One (1) Tablet, 
Rapid Dissolve PO every eight (8) hours for 2 weeks.
Disp:*20 Tablet, Rapid Dissolve(s)* Refills:*0*
4. Topiramate 100 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
5. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) as needed.  
6. Venlafaxine 75 mg Capsule, Sust. Release 24 hr Sig: Two (2) 
Capsule, Sust. Release 24 hr PO qAM.  
7. Venlafaxine 75 mg Capsule, Sust. Release 24 hr Sig: One (1) 
Capsule, Sust. Release 24 hr PO HS (at bedtime).  
8. Fentanyl 100 mcg/hr Patch 72 hr Sig: One (1) Patch 72 hr 
Transdermal Q72H (every 72 hours).
Disp:*4 Patch 72 hr(s)* Refills:*0*
9. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).
Disp:*60 Tablet(s)* Refills:*0*
10. Tizanidine 2 mg Tablet Sig: Two (2) Tablet PO TID (3 times a 
day).
Disp:*180 Tablet(s)* Refills:*0*
11. Hydromorphone 4 mg Tablet Sig: One (1) Tablet PO Q4H (every 
4 hours) for 2 weeks.
Disp:*60 Tablet(s)* Refills:*0*
12. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day) as needed for constipation.
Disp:*100 Capsule(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Nephrolithiasis
Secondary: Migraines
Hypokalemia

 
Discharge Condition:
stable

 
Discharge Instructions:
You were evaluated for your pain, a CAT scan showed a small 
kidney stone in your left kidney without other abnormalities 
found.
Take your medications as prescribed and follow-up with your 
doctors to discuss ___ testing to identify the cause of your 
symptoms.
 
Followup Instructions:
___